US06306891B1
To a 100 mL round bottomed flask with a stirring bar and an addition funnel topped by an argon inlet was added 1-[4-benzylamino-1-(4-fluorobenzyl)-1H-pyrrol-2-yl]ethanone AVIII-1-1 (0.472 g, 1.46 mmol), MeOH (20 mL), formalin (1.19 mL of 37% aqueous solution, 14.64 mmol) and sodium cyanoborohydride (0.628 g, 10.00 mmol). The addition funnel was charged with a solution of glacial acetic acid (0.57 mL, 10.0 mmol) in MeOH (20 mL). The acetic acid solution was added dropwise to the reaction mixture over 1.5 h. When the addition was complete, the resulting mixture was stirred at ambient temperature 18 h. The solvents were removed in vacuo and the residue was partitioned between EtOAc (100 mL) and water. The layers were separated and the organic phase was washed with saturated aqueous NaHCO3, aqueous sodium potassium tartrate and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave an oil. This material was chromatographed on silica gel using 30% EtOAc in hexanes as eluant to give 1-[4-benzylmethylamino-1-(4-fluorobenzyl)-1H-pyrrol-2-yl]ethanone AVIII-2-1 as a crystalline solid. 1H NMR (CDCl3) δ 2.25 (3H, s), 2.36 (3H, s), 4.16 (2H, s), 5.43 (2H, s), 6.33 (1H, d, j=2.2 Hz), 6.53 (1H, d, j=2.2 Hz), 6.93 (2H, m), 7.06 (2H, m), 7.27 to 7.32 (5H, complex multiplet).

reactant | 1-[4-benzylamino-1-(4-fluorobenzyl)-1H-pyrrol-2-yl]ethanone | 1.46 mmol, 0.472 g | C(C1=CC=CC=C1)NC=1C=C(N(C1)CC1=CC=C(C=C1)F)C(C)=O | C20H19FN2O
reactant | formalin | 14.64 mmol, 1.19 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 10.00 mmol, 0.628 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 10.0 mmol, 0.57 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
product | 1-[4-benzylmethylamino-1-(4-fluorobenzyl)-1H-pyrrol-2-yl]ethanone | C(C1=CC=CC=C1)CNC=1C=C(N(C1)CC1=CC=C(C=C1)F)C(C)=O | C21H21FN2O
